US08357711B2
2-Fluoro-4-({[2-(4-fluorophenoxy)-2-methylpropyl]amino}carbonyl)benzenesulfonyl chloride
4-Amino-3-fluoro-N-[2-(4-fluorophenoxy)-2-methylpropyl]benzamide (Preparation 94, 441 mg, 1.24 mmol) in 6 M of HCl in water (2 mL) was cooled at −5° C. Sodium nitrite (94.0 mg, 1.36 mmol) in water (0.5 mL, 30 mmol) was added slowly. After 20 minutes, sulfur dioxide in AcOH (8:25, sulfur dioxide:AcOH, 3 mL) and copper(II) chloride dihydrate (0.21 g, 1.2 mmol) were added to the reaction mixture. Vigorous gas evolution occurred. After 2 hours, the reaction was poured onto ice and water. The resulting solid was collected by filtration and washed with water and dried to afford a dark brown solid.

reactant | 4-Amino-3-fluoro-N-[2-(4-fluorophenoxy)-2-methylpropyl]benzamide | 1.24 mmol, 441 mg | NC1=C(C=C(C(=O)NCC(C)(C)OC2=CC=C(C=C2)F)C=C1)F | C17H18F2N2O2
reactant | Sodium nitrite | 1.36 mmol, 94.0 mg | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | HCl | 6 M | Cl | ClH
solvent | water | 2 mL | O | H2O
solvent | AcOH | 3 mL | CC(=O)O | C2H4O2
catalyst | copper(II) chloride dihydrate | 1.2 mmol, 0.21 g | O.O.[Cu](Cl)Cl
solvent | water | 30 mmol, 0.5 mL | O | H2O
product | 2-Fluoro-4-({[2-(4-fluorophenoxy)-2-methylpropyl]amino}carbonyl)benzenesulfonyl chloride | FC1=C(C=CC(=C1)C(=O)NCC(C)(C)OC1=CC=C(C=C1)F)S(=O)(=O)Cl | C17H16ClF2NO4S
